US06251926B1
A mixture of ethyl Z-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate (830 mg), 4(E-2-phenylethenyl)phenylboronic acid (268 mg), potassium carbonate (626 mg), toluene (20 ml), ethanol (2 ml) and water (2 ml) was stirred under an argon atmosphere for 30 minutes at room temperature. Tetrakis (triphenylphosphine)palladium (0) (105 mg) was added and the mixture was heated under reflux for 14 hours. The reaction mixture was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residues were subjected to column chromatography on silica gel to obtain an oil from a fraction eluted with ethyl acetate-hexane (1:3, v/v). This oil was dissolved in tetrahydrofuran (10 ml)-methanol (5 ml), and 1N aqueous solution of sodium hydroxide (5 ml) was added and the mixture was stirred for 2 hours at 40° C. 1N HCl (5.5 ml) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride, dried (MgSO4) and then concentrated. The residual crystal was recrystallized from ethyl acetate-hexane to obtain Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[4-(E-2-phenylethenyl)phenyl]acetic acid (634 mg, yield: 77%) as pale-yellow crystals. m.p. 194-195° C. (decomposition)

reactant | ethyl Z-2-(4-bromophenyl)-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]acetate | 830 mg | BrC1=CC=C(C=C1)/C(/C(=O)OCC)=N/OCC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C28H25BrN2O5
reactant | 4(E-2-phenylethenyl)phenylboronic acid | 268 mg | C1(=CC=CC=C1)/C=C/C1=CC=C(C=C1)B(O)O | C14H13BO2
reactant | potassium carbonate | 626 mg | C([O-])([O-])=O.[K+].[K+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 2 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | Z-2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-2-[4-(E-2-phenylethenyl)phenyl]acetic acid | 634 mg, yield: 77% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(/C(=O)O)\C2=CC=C(C=C2)\C=C\C2=CC=CC=C2)C=C1 | C34H28N2O5
